US08389743B2
3-(3-Chloro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutanecarboxylic acid cyclopropylmethyl-methyl-amide
To a solution of crude intermediate 17, 3-(3-chloro-4-((pyrrolidin-1-yl)methyl)phenyl)-3-hydroxycyclobutanecarboxylic acid (˜4.3 mL ˜0.65 mmol) was added cyclopropylmethyl-methyl-amine hydrochloride (61 mg, 0.51 mmol), triethylamine (0.18 ml, 1.29 mmol) and T3P (50% solution in EtOAc, 0.62 ml, 0.97 mmol). The resulting reaction mixture was stirred at RT for 1 hr and then 25 ml of 1N NaOH and 100 ml of EtOAc were added and the layers were separated. The aqueous layer was subjected to EtOAc extraction (2×60 ml) again and the combined organic layers were dried over MgSO4 and evaporated. The residue was purified by flash column chromatography using a 40 g ISCO™ column, eluting with 5% MeOH/CH2Cl2 containing 0.25% NH4OH. The product containing fractions were collected and concentrated under reduced pressure to give the title compound (71 mg, 29% yield). Rf=0.50 (15% MeOH/CH2Cl2+0.2% NH4OH); LRMS m/z Calcd for C21H29Cl N2 O2, 376.9, found, 377.2 (M+1) APCI; 400 MHz 1H NMR (CDCl3) 1:1 mixture of rotomers, diagnostic peaks, δ 3.75 (s, 2H), 3.02 & 3.01 (2 singlets, 3H total), 2.62-2.54 (m, 6H), 1.82-1.74 (m, 4H); 100 MHz 13C NMR (CDCl3) 1:1 mixture of rotomers, peak list δ 175.9, 175.7, 146.4, 146.3, 135.2, 134.0, 130.9, 130.8, 126.5, 126.4, 123.7, 73.7, 73.5, 56.7, 54.6, 54.3, 52.4, 41.3, 41.0, 35.5, 34.5, 29.0, 28.5, 23.7, 10.5, 9.5, 3.8, 3.6.

reactant | 3-(3-chloro-4-((pyrrolidin-1-yl)methyl)phenyl)-3-hydroxycyclobutanecarboxylic acid | ˜0.65 mmol, ˜4.3 mL | ClC=1C=C(C=CC1CN1CCCC1)C1(CC(C1)C(=O)O)O | C16H20ClNO3
reactant | cyclopropylmethyl-methyl-amine hydrochloride | 0.51 mmol, 61 mg | Cl.C1(CC1)CNC
reactant | triethylamine | 1.29 mmol, 0.18 ml | C(C)N(CC)CC | C6H15N
reactant | T3P | 0.97 mmol, 0.62 ml | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
reactant | NaOH | 1N, 25 ml | [OH-].[Na+]
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | 3-(3-Chloro-4-pyrrolidin-1-ylmethyl-phenyl)-3-hydroxy-cyclobutanecarboxylic acid cyclopropylmethyl-methyl-amide | 71 mg, 29% yield | C1(CC1)CN(C(=O)C1CC(C1)(O)C1=CC(=C(C=C1)CN1CCCC1)Cl)C | C21H29ClN2O2
